US04895860
Step (1) Preparation of 5-Bromo-3-(dimethylaminomethyl)indole
According to A. Ek, et al., J Am. Chem. Soc., 76, 5579 (1954), to an ice-cooled mixture of dioxane (130 mL) acetic acid (130 mL) , 37% aqueous formaldehyde (9.9 mL, 0.133 mol), 40% aqueous dimethylamine (17.6 mL, 0.140 mol), and H2O (10.6 mL) was added a solution of 5-bromoindole (25.0 g, 0.128 mol) in dioxane (130 mL) over 35 minutes. The internal temperature was maintained at 5° C. during the addition. After 2 hours, the cooling bath was removed and stirring was continued at room temperature overnight. The mixture was diluted with H2O (1600 mL), charcoal and celite were added and the mixture was filtered. 2.5 N NaOH (1000 mL) was added and the resulting precipitate was collected by filtration to yield 98% of product as a white solid.

reactant | formaldehyde | 0.133 mol, 9.9 mL | C=O | CH2O
reactant | dimethylamine | 0.140 mol, 17.6 mL | CNC | C2H7N
reactant | H2O | 10.6 mL | O | H2O
reactant | 5-bromoindole | 0.128 mol, 25.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | 5-Bromo-3-(dimethylaminomethyl)indole | 98% | BrC=1C=C2C(=CNC2=CC1)CN(C)C | C11H13BrN2
